US04290963
One gram of 17α-acetoxy-6-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione is heated analogously to Example 1 in "Dowtherm" for 90 minutes to 285° C., worked up, separated, and combined. Recrystallization from ethanol yields 380 mg of 6-chloro-1α,2α-methylene-4,6,16-pregnatriene-3,20-dione (89% of theory), m.p. 243°-246° C.

reactant | 17α-acetoxy-6-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione | One gram | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O)Cl | C24H29ClO4
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-chloro-1α,2α-methylene-4,6,16-pregnatriene-3,20-dione | 380 mg, 89% | ClC1=C[C@H]2[C@@H]3CC=C(C(C)=O)[C@]3(CC[C@@H]2[C@]2([C@@H]3[C@H](C(C=C12)=O)C3)C)C | C22H25ClO2
